US05616586
To a solution of 2-methoxycarbonyltetrahydroquinoline (7.3 g, 32.1 mmol) in dichloromethane (100 mL) in the presence of triethylamine (12 mL) and a small amount of 4-dimethylaminopyridine was added slowly trifluoroacetic anhydride (4.88 mL, 35.3 mmol) at 0° C. The mixture was stirred for 6 h at room temperature and the 1N aqueous hydrochloric acid was added. The organic layer was separated, washed with water, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 15:1 to 5:1 hexane/ethyl acetate to give 8.80 g of N-trifluoroacetyl-2-methoxycarbonyltetrahydroquinoline (96%): 1H NMR (270 MHz, CDCl3) δ7.23 (m, 4H), 5.15 (m, 1H), 3.69 (s, 3H), 2.63~2.76 (m, 3H), 1.75 (m, 1H).

reactant | 2-methoxycarbonyltetrahydroquinoline | 32.1 mmol, 7.3 g | COC(=O)C1NC2=CC=CC=C2CC1 | C11H13NO2
reactant | triethylamine | 12 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 35.3 mmol, 4.88 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-trifluoroacetyl-2-methoxycarbonyltetrahydroquinoline | 8.80 g, 96% | FC(C(=O)N1C(CCC2CC=CC=C12)C(=O)OC)(F)F | C13H14F3NO3
